US09169254B2
A solution of 1-bromo-2-(2-bromoethyl)benzene (6.23 g, 23.6 mmol) in ethanol (20.5 mL) was added to a solution of sodium sulfite (3.12 g, 24.7 mmol) in water (25.0 mL). The mixture was heated at 100° C. for 24 hours. The reaction mixture was filtered, and the filtrate was then left to stand at 3° C. overnight. The resulting white crystals were collected by filtration and dried to give sodium 2-(2-bromo-phenyl)ethanesulfonate (4.00 g, 59%).

reactant | 1-bromo-2-(2-bromoethyl)benzene | 23.6 mmol, 6.23 g | BrC1=C(C=CC=C1)CCBr | C8H8Br2
reactant | sodium sulfite | 24.7 mmol, 3.12 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 20.5 mL | C(C)O | C2H6O
solvent | water | 25.0 mL | O | H2O
product | sodium 2-(2-bromo-phenyl)ethanesulfonate | 4.00 g, 59% | BrC1=C(C=CC=C1)CCS(=O)(=O)[O-].[Na+] | InChI=1S/C8H9BrO3S.Na/c9-8-4-2-1-3-7(8)5-6-13(10,11)12;/h1-4H,5-6H2,(H,10,11,12);/q;+1/p-1
